US07176216B2
tert-Butyl N-[7-bromo-2-(methoxymethyl)pyrazolo[1,5-a]pyridin-3-yl]carbamate
To a solution of the obtained 7-bromo-2-(methoxymethyl)pyrazolo[1,5-a]pyridine-3-amine dissolved in triethylamine (0.303 mL) and dichloromethane (5 mL) was added di-tert-butyl dicarbonate (380 mg) while cooling with ice, and the reaction mixture was further stirred overnight at room temperature. Water was added to the reaction mixture, extraction was performed with ethyl acetate, and the organic extract was washed with water and brine. The obtained organic extract was dried over anhydrous magnesium sulfate and filtered, the solvent was evaporated under reduced pressure, the residue was purified by silica gel column chromatography and the title compound (360 mg) was obtained as light yellow crystals from the n-hexane:ethyl acetate (5:1) fraction.

reactant | 7-bromo-2-(methoxymethyl)pyrazolo[1,5-a]pyridine-3-amine | BrC1=CC=CC=2N1N=C(C2N)COC | C9H10BrN3O
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
reactant | di-tert-butyl dicarbonate | 380 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | O | H2O
solvent | triethylamine | 0.303 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl N-[7-bromo-2-(methoxymethyl)pyrazolo[1,5-a]pyridin-3-yl]carbamate | 360 mg | BrC1=CC=CC=2N1N=C(C2NC(OC(C)(C)C)=O)COC | C14H18BrN3O3
